US05519034
Sodium cyanoborohydride (7.4 g) was added to a stirred mixture of 7-benzyloxy-6-methoxy-1-[1-(2-methoxyphenyl) cyclopropyl]-3,4-dihydroisoquinoline (23.3 g) , acetic acid (125 ml) and methanol (65 ml) cooled by ice/water. After 16 hours at ambient temperature the mixture was added to sodium hydroxide (110 g) and ice. The product was extracted into ether and the organic layer dried over potassium carbonate and the solvent removed by evaporation to yield a solid. The solid (16.9 g) in industrial methylated spirits (1800 ml) was stirred for 3 days with 1M aqueous sodium hydrogen phosphite [340 ml prepared from phosphorous acid (27.9 g) and sodium hydrogen carbonate (28.5 g)] and 37-40% aqueous formaldehyde solution (180 ml). The solution was concentrated in vacuo to a volume of 200 ml and basified with potassium carbonate (40 g) in water (200 ml). The mixture was extracted with ether and the solvent removed from the extract to give a gum which was purified by azeotropic distillation with industrial methylated spirits then propan-2 -ol to yield 7-benzyloxy-6-methoxy-1-[1-(2-methoxyphenyl)cyclopropyl]-2-methyl-1,2,3,4-tetrahydroisoquinoline which was heated under reflux for 30 minutes with ethanol (200 ml) and concentrated hydrochloric acid (200 ml). The solvent was removed in vacuo to yield a solid which was dried by azeotropic distillation with propan-2-ol to produce a residue which was dissolved in acetonitrile (200 ml). Ethyl acetate (450 ml) was added, and the mixture boiled. The solution was decanted and evaporated in vacuo to give a residue which was triturated with cold ethyl acetate. The filtrate deposited further crystalline solid which was collected by filtration, washed in ethyl acetate and dried. The product yielded was 7-hydroxy-6-methoxy-1-[1-(2-methoxyphenyl)cyclopropyl]-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloride, m.p. 118° C.

reactant | Sodium cyanoborohydride | 7.4 g | C(#N)[BH3-].[Na+]
reactant | 7-benzyloxy-6-methoxy-1-[1-(2-methoxyphenyl) cyclopropyl]-3,4-dihydroisoquinoline | 23.3 g | C(C1=CC=CC=C1)OC1=C(C=C2CCN=C(C2=C1)C1(CC1)C1=C(C=CC=C1)OC)OC | C27H27NO3
reactant | sodium hydroxide | 110 g | [OH-].[Na+]
reactant | sodium hydrogen phosphite | 1M, 340 ml, 27.9 g | P(O)([O-])[O-].[Na+].[Na+]
reactant | formaldehyde | 180 ml | C=O | CH2O
solvent | methanol | 65 ml | CO | CH4O
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 7-benzyloxy-6-methoxy-1-[1-(2-methoxyphenyl)cyclopropyl]-2-methyl-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCN(C(C2=C1)C1(CC1)C1=C(C=CC=C1)OC)C)OC | C28H31NO3
